US04460777
Heating a suspension of ethyl 3-methyl-2-(3-pyridyl)indole-5-propionate hydrochloride in 450 ml of 2N HCl at reflux temperature for 2 hours, cooling and collecting the resulting solid gave 3-methyl-2-(3-pyridyl)-indole-5-propionic acid hydrochloride, m.p. 290°. Similar hydrolysis of ethyl 3-methyl-2-(4-pyridyl)indole-5-propionate yielded 3-methyl-2-(4-pyridyl)indole-5-propionic acid hydrochloride, melting above 305°.

reactant | ethyl 3-methyl-2-(3-pyridyl)indole-5-propionate hydrochloride | Cl.CC1=C(NC2=CC=C(C=C12)CCC(=O)OCC)C=1C=NC=CC1
solvent | HCl | 2N, 450 ml | Cl | ClH
product | 3-methyl-2-(3-pyridyl)-indole-5-propionic acid hydrochloride | Cl.CC1=C(NC2=CC=C(C=C12)CCC(=O)O)C=1C=NC=CC1 | InChI=1S/C17H16N2O2.ClH/c1-11-14-9-12(5-7-16(20)21)4-6-15(14)19-17(11)13-3-2-8-18-10-13;/h2-4,6,8-10,19H,5,7H2,1H3,(H,20,21);1H
